US04289702
Repetition of the preparation substituting ascorbic acid for the erythorbic acid resulted in the isolation of 26.35 g of a white waxy solid assaying 95.1% ascorbic acid 6-laurate (0.070 mole, 70% yield).

reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | erythorbic acid | C([C@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
product | ascorbic acid 6-laurate | 0.070 mole, 70% yield | C(CCCCCCCCCCC)(=O)OC[C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O | C18H30O7
